US04133832
Preparation of 1,5-bis(p-chlorobenzenesulfonyl carbohydrazide.
211 (1.0 mole) p-chlorobenzenesulfonyl chloride was added to a suspension of 45 g (0.5 mole) carbohydrazide and 100 g sodium bicarbonate in 1000 ml ethanol in a 3 liter reaction flask. The mixture was stirred and heated gradually to gentle reflux (80° C) as carbon dioxide was evolved. Heating was continued until CO2 no longer evolved (3hours). The mix was cooled to 20 C and filtered. The mixture of product and sodium chloride was dried at 60° C. Yield = 227 g. The solid mixture was suspended in 2000 ml water, stirred to dissolve the sodium chloride, and then the insoluble product was filtered, washed and dried. Yield = 129 g, m.p. 239-240° C (dec.)

reactant | p-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | carbohydrazide | 0.5 mole, 45 g | NNC(=O)NN | CH6N4O
reactant | sodium bicarbonate | 100 g | C([O-])(O)=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | p-chlorobenzenesulfonyl carbohydrazide | ClC1=CC=C(C=C1)S(=O)(=O)NNC(=O)NN | C7H9ClN4O3S
